.title KiCad schematic
.include "C:\Users\Erik\Documents\Elektronika\2021\AdjustableCurrentLoad\Spice\Lib\IRF840.lib"
U7 GND GND SDA SCL +3V3 GND Net-_C19-Pad2_ Net-_C19-Pad1_ LM358
C19 Net-_C19-Pad1_ Net-_C19-Pad2_ 100n
R20 Net-_C19-Pad1_ SHUNT 10R
R21 Net-_C19-Pad2_ GND 10R
C16 GND +3V3 100n
R9 SCL +3V3 4K7
R10 SDA +3V3 4K7
C14 GND +3V3 100n
C11 GND +3V3 100n
R18 GND SHUNT 0R002
J2 LOAD GND Conn_01x02
R3 Net-_D1-Pad1_ GND 270R
D1 Net-_D1-Pad1_ Net-_D1-Pad2_ LED
U3 Net-_R16-Pad1_ Net-_R4-Pad1_ Net-_U10-Pad1_ GND +10V LM358
R2 +3V3 /RTS 10k
U1 +3V3 THERM /RTS ~INT NC_01 NC_02 Net-_D1-Pad2_ +3V3 GND NC_03 NC_04 /DTR SDA SCL Net-_J3-Pad2_ Net-_J3-Pad1_ NC_05 NC_06 NC_07 NC_08 NC_09 NC_10 ESP12E
J3 Net-_J3-Pad1_ Net-_J3-Pad2_ /DTR /RTS GND Conn_01x05
Q1 Net-_C18-Pad2_ LOAD SHUNT irf840
R16 Net-_R16-Pad1_ Net-_C18-Pad2_ 470R
C18 GND Net-_C18-Pad2_ 100n
R19 Net-_C18-Pad2_ SHUNT 100k
Q2 Net-_C20-Pad2_ LOAD SHUNT irf840
R22 Net-_R16-Pad1_ Net-_C20-Pad2_ 470R
C20 GND Net-_C20-Pad2_ 100n
R23 Net-_C20-Pad2_ SHUNT 100k
HS1 Heatsink
HS2 Heatsink
TH1 +3V3 THERM 10k_NTC
TH2 +3V3 THERM 10k_NTC
R1 THERM GND 5k6
C10 GND +3V3 100n
J4 SCL ~INT SDA Conn_01x03
J5 +3V3 GND Conn_01x02
D2 NEUTRAL Net-_C1-Pad1_ Net-_C2-Pad1_ Net-_C2-Pad2_ DB207S
RV1 Net-_C5-Pad2_ NEUTRAL 10D431K
F1 Net-_C5-Pad2_ LINE 0,3Amp
J1 LINE Earth NEUTRAL Conn_01x02
C2 Net-_C2-Pad1_ Net-_C2-Pad2_ 4,7uF/400V
C3 Net-_C3-Pad1_ Net-_C3-Pad2_ 6,8uF/400V
U2 Net-_C6-Pad1_ Net-_U2-Pad2_ Net-_D3-Pad2_ Net-_C3-Pad2_ Net-_C3-Pad2_ Net-_C3-Pad2_ Net-_C3-Pad2_ LNK364D
U4 Net-_R12-Pad1_ Net-_C12-Pad1_ Net-_U2-Pad2_ Net-_C6-Pad1_ PC817
C6 Net-_C6-Pad1_ Net-_C3-Pad2_ 100nF/50V
R15 Net-_C12-Pad2_ GND 6K8
C4 Net-_C3-Pad1_ Net-_C4-Pad2_ 1nF/300V
R8 Net-_C3-Pad1_ Net-_C4-Pad2_ 100k
H1 GND MountingHole_Pad
U5 Net-_C12-Pad1_ Net-_C12-Pad2_ GND TL431
C12 Net-_C12-Pad1_ Net-_C12-Pad2_ 100nF
R13 Net-_R12-Pad1_ Net-_C12-Pad1_ 1K
R14 +10V Net-_C12-Pad2_ 22k
R5 Net-_C1-Pad1_ Net-_C5-Pad2_ 10R
C1 Net-_C1-Pad1_ NEUTRAL X2 100nF/275V
R7 Net-_C4-Pad2_ Net-_D3-Pad1_ 300R
D3 Net-_D3-Pad1_ Net-_D3-Pad2_ FR107
D4 Net-_C8-Pad1_ Net-_D4-Pad2_ SS34
C8 Net-_C8-Pad1_ NC_11 1000uF/25V
R12 Net-_R12-Pad1_ Net-_C8-Pad1_ 150
C15 +10V GND 10nF
L2 Net-_C8-Pad1_ +10V 3,3uH
C13 +10V NC_12 100uF/25V
C9 Net-_C8-Pad1_ Net-_C9-Pad2_ 470pF/50V
R11 Net-_C9-Pad2_ Net-_D4-Pad2_ 18R
H2 GND MountingHole_Pad
H3 GND MountingHole_Pad
H4 GND MountingHole_Pad
L1 Net-_C2-Pad1_ Net-_C2-Pad2_ Net-_C3-Pad2_ Net-_C3-Pad1_ 6mH
T1 Net-_C3-Pad1_ Net-_D3-Pad2_ GND Net-_D4-Pad2_ EE13
U6 GND +3V3 +10V LM1117-3.3
U10 Net-_U10-Pad1_ GND +3V3 SDA SCL GND MCP4725A0
C5 Earth Net-_C5-Pad2_ Y type 2N2/250VAC
C7 NEUTRAL Earth Y type 2N2/250VAC
C17 Earth GND X type 470pF
RV2 Net-_R16-Pad1_ Net-_R4-Pad1_ Net-_R4-Pad1_ 10K
R4 Net-_R4-Pad1_ GND 2K2
U9 GNDA GNDA GNDA Net-_R24-Pad2_ Net-_R25-Pad2_ Net-_R26-Pad2_ Net-_R27-Pad2_ GNDA Net-_D8-Pad2_ Net-_D7-Pad2_ Net-_D6-Pad2_ Net-_D5-Pad2_ Net-_J6-Pad2_ /Front/SCL /Front/SDA VDC PCF8574
R24 VDC Net-_R24-Pad2_ 10k
R25 VDC Net-_R25-Pad2_ 10k
R26 VDC Net-_R26-Pad2_ 10k
R27 VDC Net-_R27-Pad2_ 10k
SW3 Net-_R26-Pad2_ Net-_R26-Pad2_ GNDA GNDA Switch_6x6_SMT
SW4 Net-_R27-Pad2_ Net-_R27-Pad2_ GNDA GNDA Switch_6x6_SMT
R28 Net-_D5-Pad1_ GNDA 270R
D5 Net-_D5-Pad1_ Net-_D5-Pad2_ LED
R29 Net-_D6-Pad1_ GNDA 270R
D6 Net-_D6-Pad1_ Net-_D6-Pad2_ LED
R30 Net-_D7-Pad1_ GNDA 270R
D7 Net-_D7-Pad1_ Net-_D7-Pad2_ LED
R31 Net-_D8-Pad1_ GNDA 270R
D8 Net-_D8-Pad1_ Net-_D8-Pad2_ LED
J6 /Front/SCL Net-_J6-Pad2_ /Front/SDA Conn_01x03
J7 VDC GNDA Conn_01x02
U8 GNDA VDC /Front/SCL /Front/SDA SSD1306
H9 GNDA MountingHole_Pad
H10 GNDA MountingHole_Pad
H11 GNDA MountingHole_Pad
H12 GNDA MountingHole_Pad
C21 GNDA VDC 100n
C22 GNDA VDC 100n
R32 VDC Net-_J6-Pad2_ 10k
SW2 Net-_R25-Pad2_ Net-_R25-Pad2_ GNDA GNDA Switch_6x6_SMT
SW1 Net-_R24-Pad2_ Net-_R24-Pad2_ GNDA GNDA Switch_6x6_SMT
V1 LINE NEUTRAL sin(0 230 50)
.tran 1u 1m 
.end
