* Z:\Elektronica\Projecten\2021\AdjustableCurrentLoad\Simulatie\LM358_adder.asc
XU1 N005 N003 N001 0 N006 LM358/NS
R1 N005 N002 1K
R2 N005 N004 1K
R3 0 N003 10K
R4 NC_01 N006 470R
V1 N002 0 3.3
V2 N004 0 1
V3 N001 0 5
R5 N006 N003 10K
.tran 0.5
.lib ..\sym\EXTRA\ExtraComparators\ns_models.lib
.backanno
.end
